US04350697
A suspension of 1.385 kg of 4-methoxycarbonyl-1-methylpyridinium iodide in 25 liters of dry methanol was stirred and cooled to 5° C. and 700 g of sodium borohydride were added thereto in portions over 1 hour with the temperature held at 5°-10° C. When the addition was complete, the resultant solution was stirred at room temperature for another hour and was then concentrated to 5 to 7 liters. 25 liters of water were added thereto followed by addition of 2 kg of solid sodium carbonate. The solution thus obtained was extracted 3 times with 2.5 liters of chloroform and the organic phase was dried over Na2SO4 and was evaporated to dryness. The residual oil was distilled to obtain 583 g of methyl 1,2,3,6-tetrahydro-1-methylisonicotinate (67.1% yield) boiling at 78° C. at 1 mm Hg.

reactant | 4-methoxycarbonyl-1-methylpyridinium iodide | 1.385 kg | [I-].COC(=O)C1=CC=[N+](C=C1)C
reactant | sodium borohydride | 700 g | [BH4-].[Na+]
solvent | methanol | 25 liters | CO | CH4O
product | methyl 1,2,3,6-tetrahydro-1-methylisonicotinate | 583 g, 67.1% yield | CN1CCC(C(=O)OC)=CC1 | C8H13NO2
